US06956042B2
In an alternative approach to the synthesis of pyridine-substituted pyridyl diazaspiroalkanes, 3,5-dibromopyridine can be converted into the corresponding 5-alkoxy-3-bromo- and 5-aryloxy-3-bromopyridines by the action of sodium alkoxides or sodium aryloxides. Procedures such as those described by Comins et al., J. Org. Chem. 55: 69 (1990) and Hertog et al., Recueil Trav. Chim. Pays-Bas 74: 1171 (1955) are used. This is exemplified by the preparation 7-(5-(4-methoxyphenoxy)-3-pyridyl)-1,7-diazaspiro[4.4]nonane. Reaction of 3,5-dibromopyridine with sodium 4-methoxyphenoxide in N,N-dimethylformamide gives 3-bromo-5-(4-methoxyphenoxy)pyridine. Coupling of 3-bromo-5-(4-methoxyphenoxy)pyridine with 1-benzyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane in the presence of sodium tert-butoxide, and a catalytic amount of tris(dibenzylideneacetone)dipalladium(0) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, in toluene, followed by hydrogenolysis of the benzyl protecting group, will provide 7-(5-(4-methoxyphenoxy)-3-pyridyl)-1,7-diazaspiro[4.4]nonane.

reactant | 3-bromo-5-(4-methoxyphenoxy)pyridine | BrC=1C=NC=C(C1)OC1=CC=C(C=C1)OC | C12H10BrNO2
reactant | 1-benzyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane | C(C1=CC=CC=C1)N1CCCC12CN(CC2)C=2C=NC=CC2 | C19H23N3
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(5-(4-methoxyphenoxy)-3-pyridyl)-1,7-diazaspiro[4.4]nonane | COC1=CC=C(OC=2C=C(C=NC2)N2CC3(CCCN3)CC2)C=C1 | C19H23N3O2
